US09145429B2
A solution of 2-(4-bromo-3-(1-(tetrahydro-2H-pyran-2-yloxy)ethyl)phenoxy)tetrahydro-2H-pyran (4.38 g, 11.3 mmol) in anhydrous THF (11 mL) was made before cooling the reaction mixture on a −78° C. bath. Reaction mixture was then treated, drop-wise, with n-BuLi (8.48 mL, 13.6 mmol) and allowed to stir for 1 hr before (i-PrO)3B (3.9 mL, 17 mmol) was added via syringe. After the addition of (i-PrO)3B, the reaction mixture was warmed to room temperature and allowed to stir for 21 hr. Cyclization of the bicyclic ring was done in situ by the addition of 7 mL of 6 M HCl. The mixture was stirred for 3 h before quenching the reaction with equal volume of concentrated NH4Cl(aq) and EtOAc (1:1, 20 mL). The layers were separated and the aqueous layer was further extracted with equal volume of EtOAc before the organic layers were combined and dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash give 3-methylbenzo[c][1,2]oxaborole-1,5(3H)-diol (1.51 g, 81%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 1.32 (d, J=5.1 Hz, 3H), 5.03-5.08 (m, 2H), 6.68 (s, 1H), 6.71 (dd, J=6.0, 1.5 Hz, 1H), 7.45 (d, J=6.0 Hz, 1H), 8.57 (s, 1H), 9.71 (s, 1H).

reactant | 2-(4-bromo-3-(1-(tetrahydro-2H-pyran-2-yloxy)ethyl)phenoxy)tetrahydro-2H-pyran | 11.3 mmol, 4.38 g | BrC1=C(C=C(OC2OCCCC2)C=C1)C(C)OC1OCCCC1 | C18H25BrO4
reactant | n-BuLi | 13.6 mmol, 8.48 mL | [Li]CCCC
reactant | (i-PrO)3B | 17 mmol, 3.9 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 6 M, 7 mL | Cl | ClH
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 3-methylbenzo[c][1,2]oxaborole-1,5(3H)-diol | 1.51 g, 81% | CC1C2=C(B(O1)O)C=CC(=C2)O | C8H9BO3
